US08980226B2
9:1 Fosfomycin/Tobramycin Solution
Fosfomycin disodium (18.057 g, 13.99 g free acid) was dissolved in 250 mL of water and the pH was adjusted to 7.41 by the dropwise addition of 1.53 mL of 4.5 N HCl. To the resulting solution was added 1.56 g of 97.5% tobramycin base. The pH of the solution was adjusted to 7.60 by the addition of 2.45 mL of 4.5 N HCl. The solution was diluted to 500 mL with water and filtered through a 0.2 μm Nalge Nunc 167-0020 membrane filter. The final pH was 7.76, the osmolality was 537 mOsmol/kg, the fosfomycin/tobramycin ratio was calculated to be 9:1, and the chloride concentration was 35.8 mM.

reactant | Fosfomycin disodium | 18.057 g | C[C@H]1[C@H](O1)P(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 4.5 N, 1.53 mL | Cl | ClH
reactant | tobramycin base | 1.56 g | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N | C18H37N5O9
reactant | HCl | 4.5 N, 2.45 mL | Cl | ClH
solvent | water | 250 mL | O | H2O
product | Fosfomycin Tobramycin | C[C@H]1[C@H](O1)P(=O)(O)O.C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N | InChI=1S/C18H37N5O9.C3H7O4P/c19-3-9-8(25)2-7(22)17(29-9)31-15-5(20)1-6(21)16(14(15)28)32-18-13(27)11(23)12(26)10(4-24)30-18;1-2-3(7-2)8(4,5)6/h5-18,24-28H,1-4,19-23H2;2-3H,1H3,(H2,4,5,6)/t5-,6+,7+,8-,9+,10+,11-,12+,13+,14-,15+,16-,17+,18+;2-,3+/m00/s1
